US03996374
According to the procedure described in Example 1, 28.5 g. of 5-chloro-3-phenylisoindole-1-carboxylic acid methylamide are treated with 34.5 g. of 2-diethylaminoethyl chloride hydrochloride. The mixture is heated at 70° C. for 5 hours, then cooled and poured into 4 liters of ice-water. After the addition of 200 g. of sodium chloride, the separated product is extracted with methylene chloride. The organic phase is washed with a saturated solution of sodium chloride, dried over sodium sulfate and concentrated to dryness under reduced pressure. The residue is digested with ether, removed by filtration and washed with ether, and there is obtained a first portion of crude 5-chloro-2-[2-(diethylamino)ethyl]-3-phenylisoindole-1-carboxylic acid methylamide having a melting point of 187°-190° C. The ethereal filtrate is extracted with 1-N sulfuric acid and the acidic extract is made alkaline at 0°-5° C. with concentrated ammonia solution. Then, the separated oil is extracted with methylene chloride and the solution dried over sodium sulfate. After evaporation, there is obtained an oil which crystallizes from ether, and is obtained as a second portion of reaction product; melting point 187°-190° C. Both portions of the reaction product are recrystallized together from ethanol, and 5-chloro-2-[2-diethylamino)ethyl]-3-phenylisoindole-1-carboxylic acid methylamide is obtained in the form of colorless needles having a melting point of 190°-192° C.

reactant | 5-chloro-3-phenylisoindole-1-carboxylic acid methylamide | CNC(=O)C=1NC(=C2C=C(C=CC12)Cl)C1=CC=CC=C1 | C16H13ClN2O
reactant | 2-diethylaminoethyl chloride hydrochloride | Cl.C(C)N(CCCl)CC
product | 5-chloro-2-[2-(diethylamino)ethyl]-3-phenylisoindole-1-carboxylic acid methylamide | CNC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CCN(CC)CC | C22H26ClN3O
